US07544809B2
5-Isopropyl-2-(3-methoxyphenyl)-4-methyloxazole 3-oxide (formula XVII)
19.0 g (137 mmol) of 3-methoxybenzaldehyde were added to a solution of 18.0 g (137 mmol) of 4-methylpentane-2,3-dione 2-oxime in 30 g (99 mmol) of solution of hydrogen chloride in acetic acid (12%) and 30 g (164 mmol) of solution of hydrogen chloride in ethylene glycol dimethyl ether (20%). The reaction was stirred at 50-55° C. for 3 hours and at room temperature for 60 hours. Subsequently, 500 ml of water and 300 ml of tert-butyl methyl ether were added before a pH of 3-4 was established by adding sodium hydrogen carbonate. After phase separation, the aqueous phase was extracted twice with 100 ml each time of tert-butyl methyl ether. The combined organic phases were washed with 4×100 ml of water and concentrated fully under reduced pressure.

reactant | 3-methoxybenzaldehyde | 137 mmol, 19.0 g | COC=1C=C(C=O)C=CC1 | C8H8O2
reactant | 4-methylpentane-2,3-dione 2-oxime | 137 mmol, 18.0 g | CC(C(C(C)=NO)=O)C | C6H11NO2
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
solvent | tert-butyl methyl ether | 300 ml | COC(C)(C)C | C5H12O
solvent | water | 500 ml | O | H2O
product | 5-Isopropyl-2-(3-methoxyphenyl)-4-methyloxazole 3-oxide | C(C)(C)C1=C([N+](=C(O1)C1=CC(=CC=C1)OC)[O-])C | C14H17NO3
